US04254146
3-Benzoyl-2-nitrobenzeneacetic Acid
A solution of 11.5 g (0.03 mole) of 2-(3-benzoyl-2-nitrophenyl)propanedioic acid in 50 ml of 20% sulfuric acid and 50 ml of acetic acid was heated at reflux under a nitrogen atmosphere overnight. The solution was concentrated and the residue was made basic with 450 ml of 2N potassium bicarbonate. The mixture was extracted twice with diethylether and the aqueous layer was made acidic with 20 ml of conc. sulfuric acid. The solid which precipitated was collected by filtration, washed with water, recrystallized from aqueous isopropanol to yield 4.1 g (48%) of brown solid, m.p. 160°-162° C.

reactant | 2-(3-benzoyl-2-nitrophenyl)propanedioic acid | 0.03 mole, 11.5 g | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)C(C(=O)O)C(=O)O)[N+](=O)[O-] | C16H11NO7
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-Benzoyl-2-nitrobenzeneacetic Acid | 4.1 g, 48% | C(C1=CC=CC=C1)(=O)C=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C15H11NO5
